US08466186B2
N-(4-Trifluoromethyl-3-(5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino)benzyl)-2-methylpropane-2-sulfinamide
The title compound was prepared in analogy to the procedure in Example 99, step (a) using 2-methylpropane-2-sulfinic chloride (117 mg, 0.83 mmol), 4-trifluoromethyl-3-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzylamine (400 mg, 0.79 mmol), TEA (160 mg, 1.58 mmol) and DCM (5 mL).

reactant | 2-methylpropane-2-sulfinic chloride | 0.83 mmol, 117 mg | CC(C)(C)S(=O)Cl | C4H9ClOS
reactant | 4-trifluoromethyl-3-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzylamine | 0.79 mmol, 400 mg | FC(C1=C(C=C(CN)C=C1)NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CCC(CC2)C(F)(F)F)(F)F | C22H22ClF6N5
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Trifluoromethyl-3-(5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino)benzyl)-2-methylpropane-2-sulfinamide | FC(C1=C(C=C(CNS(=O)C(C)(C)C)C=C1)NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CCC(CC2)C(F)(F)F)(F)F | C26H30ClF6N5OS
